Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([C:3][H:4])[O:5][H:6]>>[C:2](#[C:3][H:4])[O:5][H:6].[O:1],3.69327560951
[H:17].[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.5551063997300005
[O:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[H:6].[O:1][O:2][C:3]([H:4])[C:5]#[C:7][C:8]([H:9])[H:10],3.34012608716
[H:1][C:2]1=[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[O:9]1>>[H:1][C:2](=[C:3]=[O:4])[O:9][C:7](=[C:5][H:6])[H:8],0.6263507318399999
[H:9].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:10][C:11]([H:12])([H:13])[H:14]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]\[C:11]([H:12])([H:13])[H:14],-1.7507419790799998
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2],8.508254824069999
[C:1][C:2]#[C:8][C:11]([H:12])([H:13])[H:14].[C:3]([C:4]([H:5])([H:6])[H:7])([H:9])[H:10]>>[C:1]#[C:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.65084540924
[C:6]([H:7])([H:8])[H:12].[H:1][C:2]([H:3])([H:4])[C:5]=[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-1.22412308959
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14].[H:5],4.91148231946
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12].[O:1],8.52251805166
[H:1][C:2][O:3][C:4][C:7]([C:5][H:6])([H:8])[H:9]>>[H:1][C:2][O:3][C:4]1=[C:5]([H:6])[C:7]1([H:8])[H:9],-5.03322180196
[C:1]#[C:2][C:7]([H:8])([H:9])[C:10](=[O:11])[H:12].[C:3]([H:4])([H:5])[H:6]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10](=[O:11])[H:12],-3.5394135586
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],4.53283958366
[H:1][c:2]1[o:3][c:4][c:5]([C:6]([H:7])([H:8])[H:9])[c:10]1[H:11]>>[H:1][C:4]([O:3][C:2]#[C:10][C:6]([H:7])([H:8])[H:9])=[C:5][H:11],2.4819210808000003
[C:8]([H:9])([H:10])=[C:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],1.41807126972
[H:1].[O:2]=[C:3]=[C:4]([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])([H:10])[H:11],-0.6792730912970001
[H:11].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:12][H:13]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12][H:13],-1.5862518145700002
[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])=[C:5][H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-6.11263006436
[H:1][C:2][C:3]1=[C:4]([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14]>>[C:3]1[C:4]([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14].[H:1][C:2],5.9426053147000015
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9].[O:10][H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])[O:10][H:11],-5.23536991002
[O:1].[O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-2.72674329616
[H:1][O:2][C:3](=[C:4][H:5])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13].[H:6]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13],-5.13376931802
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16]>>[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:12]([H:13])=[C:14]([H:15])[H:16],3.66460842305
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],4.25397747145
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:5],4.23938173958
[C:2][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:5]([H:3])=[C:4]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-6.77802549765
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])=[C:6]=[C:7]([H:8])[O:9][C:10]([H:11])[H:12].[H:5],1.18720756107
[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-4.29050372315
